US05208240
Preparation of N-(2Aminoethyl)-2-[4-[1-(2,3,6,9-tetrahydro-1,3-dipropyl-2,6-dioxo-1H-purin-8-yl)propyl]phenoxy]-acetamide
Dissolve 2-[4-[1-(2,3,6,9-tetrahydro-1,3-dipropyl-2,6-dioxo-1H-purin-8-yl)propyl]phenoxy]acetic acid (720 mg, 1.68 mmol) in dimethylformamide (10 mL) and treat with N-hydroxysuccinimide (192 mg, 1.68 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (676 mg, 3.53 mmol). Stir for 1.5 hours and add to a solution of ethylenediamine (10 mL of a 10% solution in methanol). Stir for 1.5 hours, pour into brine (300 mL) and extract with ethyl acetate (3×200 mL) and chloroform (3×300 mL). Dry (MgSO4) and evaporate the solvent in vacuo. Purify by radial chromatography (5→10→20% methanol chloroform with 1% ammonium hydroxide) and recrystallize (10% isopropanol/pentane to give the title compound (51 mg) as a white solid; mp 139-40° C.

reactant | 2-[4-[1-(2,3,6,9-tetrahydro-1,3-dipropyl-2,6-dioxo-1H-purin-8-yl)propyl]phenoxy]acetic acid | 1.68 mmol, 720 mg | C(CC)N1C(N(C=2NC(=NC2C1=O)C(CC)C1=CC=C(OCC(=O)O)C=C1)CCC)=O | C22H28N4O5
reactant | N-hydroxysuccinimide | 1.68 mmol, 192 mg | ON1C(CCC1=O)=O | C4H5NO3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 3.53 mmol, 676 mg | Cl.CN(CCCN=C=NCC)C
reactant | ethylenediamine | C(CN)N | C2H8N2
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | methanol | CO | CH4O
solvent | brine | 300 mL | [Cl-].[Na+].O
product | N-(2Aminoethyl)-2-[4-[1-(2,3,6,9-tetrahydro-1,3-dipropyl-2,6-dioxo-1H-purin-8-yl)propyl]phenoxy]-acetamide | 51 mg | NCCNC(COC1=CC=C(C=C1)C(CC)C=1NC=2N(C(N(C(C2N1)=O)CCC)=O)CCC)=O | C24H34N6O4
